Name:  ___                       Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Penicillins / Amoxicillin
 
Attending: ___.
 
Chief Complaint:
Febrile neutropenia
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
Ms. ___ is a ___ woman with Ph- B cell ALL (t(1;19) and
del(13q), Ph-, CD20 neg, with CNS2 involvement [subsequently
cleared] treated on protocol ___, MRD negative following
induction x2, consolidation x2, now C3D36 on protocol ___,
recurrent paroxysmal supraventricular tachycardia, C. difficile
colitis, and PCOS who presented from clinic with febrile
neutropenia. She reports this is her first fever while on
chemotherapy. It began yesterday and she recorded a temperature
of 101.5. She hoped that the fever would resolve with sleep. 
Last
night she developed transient hives on her back and right cheek.
Overnight she had night sweats. This morning the fever had
resolved, but soon returned at 101.2. Associated symptoms 
include
body aches. She has not received her flu shot this season.

 
Past Medical History:
PAST ONCOLOGIC HISTORY: 
Hematologic/Oncologic History:
- ___: Presents to primary care physician ___ 2 weeks of
headaches, fever, chills, night sweats, diffuse arthralgia, and
generalized myalgias. CBC demonstrates leukocytosis (WBC 
~50,000)
and thrombocytopenia, after which she is directed to the ___
ED. At ___ the CBC reveals WBC 50,700/uL (increased to
67,400/uL within 12 hours), hemoglobin 12.3 g/dL, and platelets
29,000/uL, with 4% neutrophils and 76% blasts. Bone marrow
aspiration and biopsy demonstrates the presence of
B-lymphoblastic leukemia (B-ALL), with t(1;19) and del(13q). The
___ chromosome was  negative and CD20 was negative. No
mutations were identified on targeted next generation lymphoid
sequencing. 
- ___: Enrolled in clinical trial protocol ___, a Phase
III randomized trial of blinatumumab for newly diagnosed
BCR-ABL-negative B lineage Acute Lymphoblastic Leukemia in
Adults. 
- ___: Receives leuprolide 7.5 mg IM for fertility
preservation. 
- ___: Begins C1D1 of induction therapy on clinical trial
protocol ___: Daunorubicin 25 mg/m2 on days 1, 8, 15, and 22.
Vincristine 1.4 mg/m2 (cap at 2 mg) on days 1, 8, ___, and 22.
Pegaspargase ___ IU/m2 (cap at 3750 IU) on day 18. Cytarabine 
70
mg intrathecal on day 1. Methotrexate 12.5 mg intrathecal on day
15. Dexamethasone 17 mg PO daily on days ___. 
- ___: Lumbar puncture reveals 2 total nucleated cells, 56%
lymphocytes, with no evidence of ALL involvement. Prophylactic
intrathecal cytarabine administered. 
- ___: Repeat lumbar puncture reveals 2% lymphoblasts,
defining CNS II disease. 
- ___: Repeat lumbar puncture again reveals 2% lymphoblasts. 

- ___: Repeat lumbar puncture reveals 1% lymphoblasts. 
- ___: Found to have progressive antithrombin deficiency
(31%) related to asparaginase, as well as hypofibrinogenemia
requiring intermittent cryoprecipitate. 
- ___: Repeat lumbar puncture shows resolution of CNS
involvement (i.e. 0% lymphoblasts). 
- ___: Bone marrow biopsy demonstrates hypocellular marrow
with left-shifted, erythroid dominanant trilineage 
hematopoiesis,
with no morphological evidence of known leukemia. Karyotype
revelas 46,XX[20], and FISH shows no evidence of t(1;19). MRD
testing reveals the presence of 0.02% B lymphoblasts. 
- ___: Leuprolide dose deferred given concurrent 
antithrombin
deficiency and hypofibrinogenemia. 
- ___: Repeat lumbar puncture again shows no evidence of CNS
involvement. 
- ___: C2D1 of induction therapy on clinical trial protocol
___: cyclophosphamide 1000 mg/m2 on days 1 and 29. Cytarabine
75 mg/m2 IV on days ___, and 36-39. Pegaspargase
___ units/m2 [cap at 3750 units] on day 15. Mercaptopurine on
days ___ and ___. Methotrexate 12.5 mg and hydrocortisone 50
mg intrathecally on days 1, 8, 15, and 22. 
- ___: Repeat lumbar puncture again shows no evidence of CNS
involvement. 
- ___: Discharged to home. 
- ___: C2D15 intrathecal methotrexate held because of
headache. Admitted for expedited work-up of headache. This
includes temporarily holding pegasparaginase (which she
eventually receives on ___, CT head without intracranial
hemorrhage, and MRI/MRV of the brain with no evidence of dural
thrombosis, as well as a 6 mm indeterminate left frontal bone
lesion, likely suggestive of a hemangioma. The headache improves
with dexamethasone and fioricet; ultimately, the most likely
explanation is that the headache is secondary to side effect of
leuprolide. 
- ___: Resumes prophylactic enoxaparin and is discharged to
home. 
- ___: C2D22 lumbar puncture (no evidence of CNS leukemia)
with intrathecal methotrexate. 
- ___: Thrombate 2216 units administered for ATIII level of
49% on ___.
- ___: C2D29 cyclosphosphamide, cytarabine IV, and
6-mercaptopurine PO. Thrombate 3095 units administered for ATIII
level of 51%. 
- ___: Cyroprecipitate administered for fibrinogen level of
105. 
- ___: C2D36 IV cytarabine, 6-mercaptopurine and Thrombate
for ATIII level 45%. 
- ___: Develops sudden onset supraventricular tachycardia,
most likely Atrial Tachycardia. This breaks with Carotid Sinus
Pressure and IV fluids.
- ___: Evaluated by Dr. ___ Cardiology, who instructs
her in vagal maneuvers and elects to defer nodal blockade, given
that the arrhythmia appeared to originate proximal to the AV
node. 
- ___: Monthly leuprolide administered. Enoxaparin stopped,
given normalization of Antithrombin III level. 
- ___: Hospitalized for SVT 170's. Resolved with
valsalva maneuvers. CTA negative for PE. Started on metopolol.
- ___: Bone marrow biopsy demonstrates cellular bone marrow
with erythroid predominant maturing trilineage hematopoiesis and
no evidence of lymphoblastic leukemia. Karyotype reveals
46,XX[20], and FISH shows no evidence of t(1;19). 
- ___: Hospitalized for Intensification Day 1
___ protocol ___.
- ___: Hospitalized for Intensification Day 8 (___)
HD MTX on protocol ___.
- ___: Bone marrow biopsy at ___ recovery from
Intensification reveals a hypocellular marrow with erythroid
predominant trilineage hematopoiesis and no morphological
evidence of acute leukemia. Normal female karayotype, with no
evidence of t(1;19) by ___. MRD testing is negative. 
- ___: Randomized to the "no blinatumumab" arm on clinical
trial protocol ___. 
- ___: C1D1 Consolidation. Lumbar puncture with intrathecal
methotrexate performed, with no morphologic evidence of ALL in
the CSF. Leuprolide 3.75 mg administered. 
- ___: C1D5 consolidation, pegaspargase administered. 
- ___: Thrombate for ATIII level 61%. 
- ___: Thrombate for ATIII level 58%. 
- ___: Thrombate for ATIII level 57%. Cryoprecipitate for
fibrinogen 117. 
- ___: Thrombate for ATIII  level 53%. 
- ___: Receives daily filgrastim for neutropenia. 
- ___: Thrombate for ATIII level 51%. 
- ___: Filgrastim for neutropenia. Peripheral blood flow
cytometry shows no evidence of recurrent ALL.
- ___: Filgrastim for neutropenia.
- ___: Neutrophil count recovers.
- ___: C2D1 consolidation, with pegfilgrastim for growth
factor support. Lumbar puncture with intrathecal methotrexate
performed; this reveals TProt 19, Glucose 68, 1 WBC (7% PMNs, 
74%
Lymphos), and 0 RBCs. Leuprolide 3.75 mg administered. 
- ___: Bone marrow biopsy performed for MRD analysis; this 
is
again MRD negative.      
- ___: C3D1 Consolidation. Lumbar puncture with intrathecal
methotrexate administered; this reveals Trpot 26, Glucose 63, 0
WBC (3% PMNS, 73% Lymphs, 24% Monos) and 0 RBCs. 
- ___: Leuprolide 3.75 administered.

PAST MEDICAL/SURGICAL HISTORY:
PCOS
Paroxysmal supraventricular tachycardia developed during her
recent chemotherapy infusion and started on flecainide and
metoprolol. These were eventually held due to bradycardia and
prolonged QT.
She is undergoing fertility preservation
with monthly leuprolide.
 
Social History:
___
Family History:
Patient is adopted so this is not available currently. 
 
Physical Exam:
ADMISSION PHYSICAL EXAM
=======================
VITALS: Afebrile and vital signs stable (see eFlowsheet)
GENERAL: Alert and in no apparent distress, cheeks flushed
EYES: Anicteric, pupils equally round
ENT: Ears and nose without visible erythema, masses, or trauma. 
Oropharynx without visible lesion, erythema or exudate
CV: Heart regular, no murmur, no S3, no S4.  No JVD. Right port.
RESP: Lungs clear to auscultation with good air movement
bilaterally.  Breathing is non-labored
GI: Abdomen soft, non-distended, non-tender to palpation.  Bowel
sounds present.  No HSM
GU: No suprapubic fullness or tenderness to palpation
MSK: Neck supple, moves all extremities, strength grossly full
and symmetric bilaterally in all limbs
SKIN: Raised erythematous plaques on medial aspect of both knees
NEURO: Alert, oriented, face symmetric, gaze conjugate with 
EOMI,
speech fluent, moves all limbs, sensation to light touch grossly
intact throughout
PSYCH: pleasant, appropriate affect

DISCHARGE PHYSICAL EXAM
========================
24 HR Data (last updated ___ @ 525)
    Temp: 97.9 (Tm 98.3), BP: 101/64 (101-132/64-84), HR: 67
(67-103), RR: 19 (___), O2 sat: 100% (97-100), O2 delivery: Ra 

GENERAL: Alert and in NAD. Cheeks no longer flushed.
HEENT: Sclerae anicteric, PERRL, hyperemic posterior pharynx, no
exudates
CHEST: lungs CTAB
CV: Heart regular, no murmur, no S3, no S4.  No JVD. 
GI: Abdomen soft, non-distended, non-tender to palpation.  
MSK: WWP, no edema
SKIN: no rash anymore
LINE: Right port c/d/I no erythema.
 
Pertinent Results:
ADMISSION LABS
==============
___ 03:45PM BLOOD WBC-0.8* RBC-2.88* Hgb-9.5* Hct-29.8* 
MCV-104* MCH-33.0* MCHC-31.9* RDW-16.2* RDWSD-61.7* Plt ___
___ 03:45PM BLOOD Neuts-51 Bands-0 ___ Monos-6 Eos-1 
Baso-1 ___ Myelos-0 AbsNeut-0.41* AbsLymp-0.33* 
AbsMono-0.05* AbsEos-0.01* AbsBaso-0.01
___ 03:45PM BLOOD Hypochr-NORMAL Anisocy-1+* Poiklo-1+* 
Macrocy-1+* Microcy-NORMAL Polychr-NORMAL Ovalocy-1+* 
Schisto-OCCASIONAL Stipple-OCCASIONAL Tear ___ 
___ Ellipto-OCCASIONAL
___ 03:45PM BLOOD Plt Smr-LOW* Plt ___
___ 03:45PM BLOOD Creat-0.5 Na-139 K-3.9 HCO3-25 AnGap-16
___ 03:45PM BLOOD ALT-29 AST-25 LD(LDH)-212 AlkPhos-74 
TotBili-0.8
___ 03:45PM BLOOD Calcium-9.0 Phos-3.3 Mg-2.0 UricAcd-2.9

MICRO
=====
- Resp viral panel PCR negative
- Blood cx, urine cx no growth final
- parvovirus b19 and strep grp A pending on discharge

IMAGING
========
CXR: No pneumonia or acute cardiopulmonary process.

DISCHARGE LABS
================
___ 12:00AM BLOOD WBC-1.7* RBC-2.41* Hgb-7.8* Hct-24.8* 
MCV-103* MCH-32.4* MCHC-31.5* RDW-16.2* RDWSD-61.5* Plt Ct-53*
___ 12:00AM BLOOD Neuts-38 Bands-0 ___ Monos-9 Eos-3 
Baso-0 Atyps-1* ___ Myelos-0 AbsNeut-0.65* AbsLymp-0.85* 
AbsMono-0.15* AbsEos-0.05 AbsBaso-0.00*
___ 12:00AM BLOOD Hypochr-NORMAL Anisocy-1+* Poiklo-1+* 
Macrocy-2+* Microcy-1+* Polychr-OCCASIONAL Spheroc-1+* 
Ovalocy-1+* Schisto-OCCASIONAL Tear ___
___ 12:00AM BLOOD ___ PTT-35.9 ___
___ 12:00AM BLOOD Plt Smr-VERY LOW* Plt Ct-53*
___ 12:00AM BLOOD Glucose-103* UreaN-7 Creat-0.4 Na-143 
K-4.1 Cl-104 HCO3-26 AnGap-13
___ 12:00AM BLOOD ALT-22 AST-14 LD(LDH)-181 AlkPhos-82 
TotBili-0.2
___ 12:00AM BLOOD Albumin-3.9 Calcium-8.8 Phos-3.6 Mg-2.2
 
Brief Hospital Course:
SUMMARY
========
Ms. ___ is a ___ woman with ___ chromosome 
negative B-cell ALL (consolidation cycle 3, day 36 of protocol 
___, recurrent paroxysmal supraventricular tachycardia, 
treated C. difficile colitis, and PCOS who presented from clinic 
with neutropenic fever and transient urticaria. The night prior 
to admission, she had a temperature of 101.5, hives on the back 
and right cheek, and night sweats. Fever resolved in the 
morning, but returned in the afternoon to 101.2, prompting her 
to come in. Workup for viral and bacterial sources was negative, 
though parvo B19 and strep A culture pending on discharge. She 
received meropenem for 2 days, and after remaining afebrile with 
no clear source of infection, was transitioned to levofloxacin. 
As her ANC was > 1000, Neupogen was discontinued. The next 2 
days, her counts dropped, and she became relatively neutropenic, 
though remained afebrile and well without signs of infection. 
Patient preferred to leave the hospital and follow-up in 
transfusion clinic the next day for blood counts and possible 
blood products.

ACUTE ISSUES ADDRESSED
======================
# Neutropenic fever
Presented with fever, rosy cheeks, urticaria on back, legs on
presentation, which resolved after meropenem and Benadryl. She 
reported a sore spot deep in her throat with swallowing, though 
no other localizing symptoms. Blood and urine cultures were 
negative, chest xray unremarkable, respiratory viral screen, PCR 
were negative. Parvo B19 and strep A culture pending on 
discharge. She was treated with meropenem for two days and 
transitioned to levofloxacin as she remained afebrile, and 
throat symptoms resolved. Ultimately it was felt her fever was 
likely triggered by either gut translocation or transient viral 
infection not picked up by the limited panel available, and 
self-resolved. 

# ___ chromosome negative B-cell ALL
# Cytopenias
Ph-, t(1;19) and del(13q), CD20 neg, with CNS2 involvement
(subsequently cleared). Treated on protocol ___, MRD negative
following induction x2, consolidation x2, presented in cycle 3, 
day 36. She had received 6-mercaptopurine in accordance with 
study schematic which was in disagreement with the most updated 
study protocol. As such, her cytopenias were expected. Her 
chemotherapy regimen was held in the setting of fever and workup 
for infection. She had received Neupogen prior to and on the 
first day of admission, this was stopped on the second day as 
her neutrophil counts were over 1000. The following 2 days, all 
lines decreased. It was decided on discharge that she should 
resume Neupogen, and follow-up the next day for cell counts, 
possible transfusion, and neupogen. She was continued on 
prophylactic acyclovir and Bactrim SS this admission.

# Penicillin allergy
# Fluoroquinolone ?toxicity
Patient described taking amoxicillin and developing face and 
body hives, facial erythema and swelling but no oral or 
respiratory symptoms ___ years ago. No subsequent exposure. She 
had never had cephalosporins. She also reported side effects 
from fluoroquinolones, including joint and body aches. This 
fever occurred through Bactrim SS. So choice of 
deescalting/prophylactic antibiotics while neutropenic was 
somewhat challenging. This is her first episode of neutropenic 
fever, and it would be of great benefit to her if question fo 
cephalosporin cross-reactivity resolved prior to any future 
fevers.

CHRONIC/STABLE PROBLEMS:
========================
# Paroxysmal supraventricular tachycardia
Previously diagnosed and worked up by cardiology; rate and 
rhythm control had been attempted, though caused bradycardia, so 
were avoided this admission. Patient initially placed on 
telemetry, which was unremarkable, so was discontinued. Patient 
was asymptomatic of this this admission.

TRANSITIONAL ISSUES
===================
[] ___ F/u CBC w diff tomorrow in clinic, transfuse to hgb>7, 
plt>10
[] ___ give neupogen
[] Patient should undergo outpatient penicillin testing
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Acyclovir 400 mg PO BID 
2. Acetaminophen-Caff-Butalbital 1 TAB PO Q6H:PRN Headache 
3. LORazepam 0.5 mg PO Q6H:PRN nausea 
4. Mercaptopurine 100 mg PO ASDIR 
5. Ondansetron 8 mg PO BID:PRN Nausea/Vomiting - First Line 
6. OxyCODONE (Immediate Release) 5 mg PO Q6H:PRN Pain - Moderate 

7. Ranitidine 75 mg PO BID 
8. Cetirizine 10 mg PO DAILY 
9. Sulfameth/Trimethoprim SS 1 TAB PO DAILY 

 
Discharge Medications:
1.  Filgrastim-sndz 480 mcg SC Q24H 
RX *filgrastim-sndz [Zarxio] 480 mcg/0.8 mL 0.___aily Disp 
#*10 Syringe Refills:*0 
2.  Levofloxacin 500 mg PO Q24H 
RX *levofloxacin 500 mg 1 tablet(s) by mouth DAILY Disp #*30 
Tablet Refills:*0 
3.  Acetaminophen-Caff-Butalbital 1 TAB PO Q6H:PRN Headache  
4.  Acyclovir 400 mg PO BID  
5.  Cetirizine 10 mg PO DAILY  
6.  LORazepam 0.5 mg PO Q6H:PRN nausea  
7.  Ondansetron 8 mg PO BID:PRN Nausea/Vomiting - First Line  
8.  OxyCODONE (Immediate Release) 5 mg PO Q6H:PRN Pain - 
Moderate  
9.  Ranitidine 75 mg PO BID  
10.  Sulfameth/Trimethoprim SS 1 TAB PO DAILY  
11. HELD- Mercaptopurine 100 mg PO ASDIR Duration: 1 Dose  This 
medication was held. Do not restart Mercaptopurine until advised 
to do so

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Primary diagnosis: Acute lymphoblastic leukemia, neutropenic 
fever

Secondary diagnoses: neutropenia, thrombocytopenia

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___,  

It was a privilege caring of you at ___.  

WHY WAS I IN THE HOSPITAL?  
-Had a fever and hives while neutropenic from chemotherapy.

WHAT HAPPENED TO ME IN THE HOSPITAL?  
- Antibiotics were given
- The rash disappeared, and fever subsided.
- Extensive workup including lab tests and x-rays did not 
identify the source of the infection.  
- It is likely that you either had a passing viral infection or 
transient translocation of gut bacteria, which is the most 
common cause of fever and neutropenia.

WHAT SHOULD I DO AFTER I LEAVE THE HOSPITAL?  
- Continue to take all your medicines and keep your 
appointments.
- Come in tomorrow and ___ for neupogen, count check and 
possible transfusion  

We wish you the best.

Sincerely,  
Your ___ Team  

 
Followup Instructions:
___